US09238640B2
A mixture of N-(1-(4-(5,7-dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)phenyl)piperidin-4-yl)acetamide (0.250 g, 0.59 mmol) and 2 M HCl (20 mL) was heated at reflux for 24 hours. The mixture was basified with 2 M NaOH to pH 8, extracted with CH2Cl2 (3×150 mL), dried over anhydrous MgSO4, filtered, and concentrated to afford 2-(4-(4-aminopiperidin-1-yl)phenyl)-5,7-dimethoxyquinazolin-4(3H)-one as a yellow solid (0.215 g, 96%).

reactant | N-(1-(4-(5,7-dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)phenyl)piperidin-4-yl)acetamide | 0.59 mmol, 0.250 g | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=CC=C(C=C1)N1CCC(CC1)NC(C)=O)=O | C23H26N4O4
reactant | NaOH | 2 M | [OH-].[Na+]
solvent | HCl | 2 M, 20 mL | Cl | ClH
product | 2-(4-(4-aminopiperidin-1-yl)phenyl)-5,7-dimethoxyquinazolin-4(3H)-one | 0.215 g, 96% | NC1CCN(CC1)C1=CC=C(C=C1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC | C21H24N4O3
